US04160829
3-(2,6-dichlorophenyl)-1,2,4-oxadiazol-5-yl-acetic acid
A solution of an approximately equivalent amount of n-butyl lithium in 22.2 ml of n-hexane was added dropwise to a solution of 10 g of 3-(2,6-dichlorophenyl)-5-methyl-1,2,4-oxadiazole (m.p. 83°-85° C.) and 6.4 ml of TMEDA in 140 ml of dry toluene using the procedure of Example 1 over a period of about 30 minutes. The reaction temperature was -55° to -60° C. After stirring the reaction mixture for another hour at about -60° C. the mixture was added to powdered carbon dioxide covered with dry diethyl ether. After standing a few hours, water and dilute hydrochloric acid were added until a pH of 8.0 was reached. The layers were separated, and the organic layer was extracted with 50 ml of water. The organic layer was discarded and the combined aqueous layers of about 300 ml were washed twice with 100 ml of diethyl ether. Then, the aqueous layer was extracted three times with 100 ml portions of diethyl ether at a pH of 2.0 These extracts were combined, washed twice with a small amount of ice-water and completely evaporated in vacuo. The solid residue was stirred up first with n-heptane and then with a small volume of toluene. After extensive drying in the desiccator, the final product of 3-(2,6-dichlorophenyl)-1,2,4-oxadiazol-5-yl-acetic acid weighed 7.6 g (63% yield) and had a m.p. of 124.5°-125.5° C.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 3-(2,6-dichlorophenyl)-5-methyl-1,2,4-oxadiazole | 10 g | ClC1=C(C(=CC=C1)Cl)C1=NOC(=N1)C | C9H6Cl2N2O
reactant | TMEDA | 6.4 ml | CN(C)CCN(C)C | C6H16N2
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | n-hexane | 22.2 ml | CCCCCC | C6H14
solvent | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(2,6-dichlorophenyl)-1,2,4-oxadiazol-5-yl-acetic acid | 63% yield | ClC1=C(C(=CC=C1)Cl)C1=NOC(=N1)CC(=O)O | C10H6Cl2N2O3
